US07544699B2
To 6-methoxy-4-oxo-3,4-dihydro-quinazoline-2-carboxylic acid ethyl ester (1.38 g, 5.438 mmol) was added POCl3 (25 mL) and the solution was heated at 100° C. for 1.5 h. The solution was concentrated under reduced pressure and the residue was dissolved in EtOAc and washed with water, brine, dried (Na2SO4) and concentrated under reduced pressure to give 1.22 g of 4-chloro-6-methoxy-quinazoline-2-carboxylic acid ethyl ester.

reactant | 6-methoxy-4-oxo-3,4-dihydro-quinazoline-2-carboxylic acid ethyl ester | 5.438 mmol, 1.38 g | C(C)OC(=O)C1=NC2=CC=C(C=C2C(N1)=O)OC | C12H12N2O4
reactant | POCl3 | 25 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-methoxy-quinazoline-2-carboxylic acid ethyl ester | 1.22 g | C(C)OC(=O)C1=NC2=CC=C(C=C2C(=N1)Cl)OC | C12H11ClN2O3
